US05047404
3-Methoxy-5,6-dihydro-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine
A stirred mixture of 5,6-dihydro-3-methylthio-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine (0.80 g) and sodium methoxide (prepared from sodium, 0.28 g and methanol) in methanol (50 ml) was heated under reflux for 1.5 hours. The cooled reaction mixture was neutralised by the addition of glacial acetic acid (0.7 ml) to afford a yellow precipitate (0.63 g) which was recrystallised from methanol to afford the title compound, 0.47 g, m.p. 221-°222° C.

reactant | 5,6-dihydro-3-methylthio-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine | 0.80 g | CSC=1N=NC2=C(N1)C(NC(=N2)C2=C(C=CC=C2)OCCC)=O | C15H15N5O2S
reactant | sodium methoxide | 0.28 g | C[O-].[Na+]
reactant | acetic acid | 0.7 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 50 ml | CO | CH4O
product | 3-Methoxy-5,6-dihydro-5-oxo-7-(2-propoxyphenyl)pyrimido[5,4-e][1,2,4]triazine | 0.63 g | COC=1N=NC2=C(N1)C(NC(=N2)C2=C(C=CC=C2)OCCC)=O | C15H15N5O3
